US08609117B2
Operation 2: synthesis of (+/−)(1R,2R)-3-hydroxy-2-[(2Z)-2-pentenyl]cyclopentaneacetic acid
In a 50 ml three-necked flask equipped with a condenser, a thermometer and a magnetic stirrer, 1 g (4.8 mmol) of (+/−)-jasmonic acid was dissolved in 15 ml of absolute ethanol. 430 mg (11.4 mmol) of sodium borohydride, NaBH4, were added. The mixture was stirred at 50° C. for 4 hours. When the reaction was finished, 5 ml of water were added slowly. The precipitate formed was filtered off. The filtrate was acidified to pH=5 with hydrochloric acid and then extracted with ethyl acetate (3×30 ml). The organic phase was dried over sodium sulphate, filtered on filter paper, and then concentrated. The colourless oil obtained was purified by chromatography on silica gel (eluent: dichloro-methane/methanol). The colourless oil obtained was dried under vacuum.

reactant | (+/−)-jasmonic acid | 4.8 mmol, 1 g | CC/C=C\CC1C(CCC1=O)CC(=O)O | C12H18O3
reactant | sodium borohydride | 11.4 mmol, 430 mg | [BH4-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (+/−)(1R,2R)-3-hydroxy-2-[(2Z)-2-pentenyl]cyclopentaneacetic acid | OC1[C@@H]([C@H](CC1)CC(=O)O)C\C=C/CC | C12H20O3
